US08492548B2
To a solution of (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate (diastereomer 1 of I2) (75 mg, 0.22 mmol) in EtOAc (5 ml), was added 2-bromo-1-(3-chloro-4-fluorophenyl)ethanone (61.7 mg, 0.24 mmol), and the reaction was stirred at room temperature for 15 hours. The precipitate was collected by suction filtration to obtain (R)-1-(2-(3-chloro-4-fluorophenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide (120.3 mg, 92% yield).

reactant | (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate | 0.22 mmol, 75 mg | C1(=CC=CC=C1)[C@H](C(=O)O[C@H]1CN2CCC1CC2)NC2=CC=CC=C2 | C21H24N2O2
reactant | 2-bromo-1-(3-chloro-4-fluorophenyl)ethanone | 0.24 mmol, 61.7 mg | BrCC(=O)C1=CC(=C(C=C1)F)Cl | C8H5BrClFO
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
product | (R)-1-(2-(3-chloro-4-fluorophenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 120.3 mg, 92% yield | [Br-].ClC=1C=C(C=CC1F)C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O)=O | InChI=1S/C29H29ClFN2O3.BrH/c30-24-17-22(11-12-25(24)31)26(34)18-33-15-13-20(14-16-33)27(19-33)36-29(35)28(21-7-3-1-4-8-21)32-23-9-5-2-6-10-23;/h1-12,17,20,27-28,32H,13-16,18-19H2;1H/q+1;/p-1/t20?,27-,28+,33?;/m0./s1
